************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_mux_15
* View Name:     schematic
* Netlisted on:  Nov  3 21:16:15 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_15
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_15 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=142.5n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_nand_15
* View Name:    schematic
************************************************************************

.SUBCKT std_nand_15 a b out
*.PININFO a:I b:I out:O
MM1 net19 b gnd! gnd! NMOS_VTL W=200n L=50n m=1
MM0 out a net19 gnd! NMOS_VTL W=200n L=50n m=1
MM3 out b vdd! vdd! PMOS_VTL W=90n L=50n m=1
MM2 out a vdd! vdd! PMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_mux_15
* View Name:    schematic
************************************************************************

.SUBCKT std_mux_15 IN0 IN1 Q SEL
*.PININFO IN0:I IN1:I SEL:I Q:O
XI0 SEL net12 / std_inv_15
XI4 net11 net10 Q / std_nand_15
XI3 net12 IN0 net11 / std_nand_15
XI1 SEL IN1 net10 / std_nand_15
.ENDS

