************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_nand_3
* View Name:     schematic
* Netlisted on:  Nov 20 19:08:18 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_nand_3
* View Name:    schematic
************************************************************************

.SUBCKT std_nand_3 a b c out
*.PININFO a:I b:I c:I out:O
MM5 net017 c gnd! gnd! NMOS_VTL W=440.0n L=50n m=1
MM1 net19 b net017 gnd! NMOS_VTL W=440.0n L=50n m=1
MM0 out a net19 gnd! NMOS_VTL W=440.0n L=50n m=1
MM4 out c vdd! vdd! PMOS_VTL W=90n L=50n m=1
MM3 out b vdd! vdd! PMOS_VTL W=90n L=50n m=1
MM2 out a vdd! vdd! PMOS_VTL W=90n L=50n m=1
.ENDS

